US06451810B1
According to the general method of Example 50, 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine and 4-(1-pyrrolyl)benzoic acid were combined to provide N1-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-4-(1-pyrrolyl)benzamide as an off white powder, m.p. 173.0-174.9° C. 1H NMR (300 MHz, DMSO-d6) δ8.52 (t, J=5.5 Hz, 1H), 8.02 (d, J=7.9 Hz, 1H), 7.90 (d, J=8.7 Hz, 2H), 7.67 (d, J=8.7 Hz, 2H), 7.61 (dd, J=8.4, 1.1 Hz, 1H), 7.48 (t, J=2.2 Hz, 2H), 7.39 (m, 1H), 7.19 (dt, J=7.6, 1.1 Hz, 1H), 6.53 (broad s, 2H), 6.30 (t, J=2.2 Hz, 2H), 4.57 (t, J=7.0 Hz, 2H), 3.82 (t, J=6.7 Hz, 2H), 3.33 (m, 2H), 3.26 (s, 3H), 3.20 (t, J=6.7 Hz, 2H), 1.87 (m, 2H), 1.71 (m, 2H); MS (EI) m/e 482.2421 (482.2430 calcd for C28H30N6O2).

reactant | 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O
reactant | 4-(1-pyrrolyl)benzoic acid | N1(C=CC=C1)C1=CC=C(C(=O)O)C=C1 | C11H9NO2
product | N1-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-4-(1-pyrrolyl)benzamide | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(C2=CC=C(C=C2)N2C=CC=C2)=O)CCOC | C28H30N6O2
